US07625887B2
2-[(2-chloro-4-phenylpyridin-3-yl)methylamino]ethanol
To a suspension of 2-chloro-3-(chloromethyl)-4-phenylpyridine hydrochloride (12.6 g) obtained in Reference Example 2C in tetrahydrofuran (150 ml) was added ethanolamine (14 ml), and the mixture was heated under reflux for 6 hrs. After cooling the reaction solution, water was added and the mixture was extracted with ethyl acetate. The organic layer was washed successively with water and saturated brine, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure to give the title compound (13.4 g) as a colorless oil.

reactant | 2-chloro-3-(chloromethyl)-4-phenylpyridine hydrochloride | 12.6 g | Cl.ClC1=NC=CC(=C1CCl)C1=CC=CC=C1
reactant | ethanolamine | 14 ml | C(O)CN | C2H7NO
reactant | water | O | H2O
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | 2-[(2-chloro-4-phenylpyridin-3-yl)methylamino]ethanol | 13.4 g | ClC1=NC=CC(=C1CNCCO)C1=CC=CC=C1 | C14H15ClN2O
